US08034878B2
C. Preparation of Bis[2,4-di-tert-butyl-6-(5-chloro-2H-benzo-triazol-2-yl)phenoxy]bis-(dimethylamino) zirconium (CAT 51)
In a dry box, 2,4-di-tert-butyl-6-(5-chloro-2H-benzo-triazol-2-yl)phenol (25 g, 70.11 mmol) was transferred to a 1 L round bottom flask and dissolved in pentane (150 ml) to from a solution. Tetrakis(dimethylamino)zirconium (9.38 g, 35.05 mmol) in pentane (150 ml) was added to this solution. The mixture was stirred for one hour and then the volatiles were removed under vacuum to obtain yellow solid. The yellow solid was used without further purification (yield, 91%).

reactant | 2,4-di-tert-butyl-6-(5-chloro-2H-benzo-triazol-2-yl)phenol | 70.11 mmol, 25 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C=CC(=C2)Cl)O | C20H24ClN3O
reactant | Tetrakis(dimethylamino)zirconium | 35.05 mmol, 9.38 g | CN(C)[Zr](N(C)C)(N(C)C)N(C)C
solvent | pentane | 150 ml | CCCCC | C5H12
solvent | pentane | 150 ml | CCCCC | C5H12
product | Bis[2,4-di-tert-butyl-6-(5-chloro-2H-benzo-triazol-2-yl)phenoxy]bis-(dimethylamino) zirconium | C(C)(C)(C)C1=C(O[Zr](N(C)C)(N(C)C)OC2=C(C=C(C=C2N2N=C3C(=N2)C=CC(=C3)Cl)C(C)(C)C)C(C)(C)C)C(=CC(=C1)C(C)(C)C)N1N=C3C(=N1)C=CC(=C3)Cl | InChI=1S/2C20H24ClN3O.2C2H6N.Zr/c2*1-19(2,3)12-9-14(20(4,5)6)18(25)17(10-12)24-22-15-8-7-13(21)11-16(15)23-24;2*1-3-2;/h2*7-11,25H,1-6H3;2*1-2H3;/q;;2*-1;+4/p-2
